US09260425B2
(R)-1-(3-bromo-6-(5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-ol 291
Following the procedures as described in Example 241 and starting with 3-(5-bromo-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine and (R)-piperidin-3-ol hydrochloride, 291 was obtained as an off-white solid (11.0 mg, 29.9%) over two steps. 1H NMR (400 MHz, DMSO) δ 9.31 (d, J=1.8 Hz, 1H), 9.24 (s, 1H), 9.01 (s, 1H), 8.60 (d, J=4.0 Hz, 1H), 8.44 (d, J=8.1 Hz, 1H), 8.06 (d, J=8.1 Hz, 1H), 7.70 (d, J=8.1 Hz, 1H), 7.51 (dd, J=8.0, 4.8 Hz, 1H), 4.93 (d, J=4.4 Hz, 1H), 3.97 (d, J=11.6 Hz, 1H), 3.83 (d, J=12.2 Hz, 1H), 3.74 (dd, J=9.2, 4.8 Hz, 1H), 2.99-2.81 (m, 2H), 2.02 (d, J=9.1 Hz, 1H), 1.88 (d, J=13.3 Hz, 1H), 1.72 (dd, J=22.7, 10.5 Hz, 1H), 1.39 (dd, J=22.0, 8.0 Hz, 1H); ESI MS m/z=451.1 (M+1)

reactant | 3-(5-bromo-6-fluoropyridin-2-yl)-5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridine | BrC=1C=CC(=NC1F)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C | C22H23BrFN5OSi
reactant | (R)-piperidin-3-ol hydrochloride | Cl.N1C[C@@H](CCC1)O
product | (R)-1-(3-bromo-6-(5-(pyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-ol | 11.0 mg, 29.9% | BrC=1C(=NC(=CC1)C1=NNC2=CN=C(C=C21)C=2C=NC=CC2)N2C[C@@H](CCC2)O | C21H19BrN6O
